US04315000
A mixture of 8 g of 4-cyano-5-cyanomethyl-1-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)imidazole, 250 ml of ethanol saturated at 0° C. with hydrogen sulfide, and 2.5 g of triethylamine is kept in a steel bomb for 48 hours at ambient temperature. The reaction solution is evaporated in vacuo to a yellow foam which is coevaporated with ethanol several times to provide 6-amino-1,5-dihydro-1-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-4H-imidazo[4,5-c]pyridine-4-thione.

reactant | 4-cyano-5-cyanomethyl-1-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)imidazole | 8 g | C(#N)C=1N=CN(C1CC#N)[C@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C32H30N4O4
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | hydrogen sulfide | S | H2S
solvent | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
product | 6-amino-1,5-dihydro-1-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-4H-imidazo[4,5-c]pyridine-4-thione | NC1=CC2=C(C(N1)=S)N=CN2[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C32H32N4O4S
